US07511092B2
Pyrogallol tri-benzoate (PTB).
A 500 ml three-necked round-bottom flask equipped with a magnetic stirrer was charged with 20.0 g (0.142 mol) of benzoyl chloride, 6.2 g (0.05 mol) of pyrogallol, 400 ml of methylene chloride, and 50 ml of tetrahydrofuran (THF). Triethylamine (TEA; 15.3 g, 0.15 mol) was added drop-wise via an addition funnel over a period of 10 min. After the addition of TEA, the solution was stirred for an additional 15 min and subsequently transferred to a 1000 ml separatory funnel. The solution was washed with 150 ml of a 1.0 M solution of HCl (1×), 100 ml of 0.1 M solution of NaOH (2×), 100 ml of 1.0 M solution of HCl (1×), and 100 ml of deionized water (3×). The methylene chloride layer was extracted, dried over MgSO4 for 1 hour, and filtered. The methylene chloride was removed in vacuo, and a viscous oil was recovered. The viscous oil was placed into a minimal amount of methylene chloride and crystallized from hexanes after 2-3 weeks time (slow evaporation of solvent occurred during crystallization) to afford a white, crystalline solid. The solid was filtered and dried in vacuo (30 mm Hg) overnight.

reactant | benzoyl chloride | 0.142 mol, 20.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyrogallol | 0.05 mol, 6.2 g | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | TEA | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Triethylamine | 0.15 mol, 15.3 g | C(C)N(CC)CC | C6H15N
product | Pyrogallol tri-benzoate | C(C1=CC=CC=C1)(=O)OC1=C(OC(C2=CC=CC=C2)=O)C(OC(C2=CC=CC=C2)=O)=CC=C1 | C27H18O6
